US08236963B2
Intermediate 46: Methyl [5-chloro-3-cyano-1-(2-methoxy-2-oxoethyl)-2-oxo-2,3-dihydro-1H-indol-3-yl](cyano)acetate, (cf. Scheme 1b, compound VIb)
A solution of potassium carbonate (1.39 g, 10.03 mmol) in water (8.2 ml) was treated with acetone cyanohydrine (4.0 ml, 43.5 mmol) at ambient temperature and continuously stirred for 15 min. A fine suspension of methyl (2Z)-[5-chloro-1-(2-methoxy-2-oxoethyl)-2-oxo-1,2-dihydro-3H-indol-3-ylidene](cyano)acetate, intermediate 45, (11.19 g, 33.43 mmol) in tetrahydrofuran (500 ml) was added dropwise and the resulting suspension was heated to reflux for 3 hours. The solid was filtered off, the residue was washed with tetrahydrofuran (3×40 ml) and the collected filtrates were evaporated to dryness. The solid was dissolved in dichloromethane (250 ml), washed with saturated NaHCO3 (2×100 ml), water (100 ml) and dried (MgSO4) to obtain the title compound (10.82 g, 89%) as red-brown solid (HPLC purity: 91%). MS (ESI+): 362.2; MS (ESI−): 360.2

reactant | potassium carbonate | 10.03 mmol, 1.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone cyanohydrine | 43.5 mmol, 4.0 ml | CC(C#N)(O)C | C4H7NO
reactant | methyl (2Z)-[5-chloro-1-(2-methoxy-2-oxoethyl)-2-oxo-1,2-dihydro-3H-indol-3-ylidene](cyano)acetate | ClC=1C=C2/C(/C(N(C2=CC1)CC(=O)OC)=O)=C(/C(=O)OC)\C#N | C15H11ClN2O5
solvent | water | 8.2 ml | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | Methyl [5-chloro-3-cyano-1-(2-methoxy-2-oxoethyl)-2-oxo-2,3-dihydro-1H-indol-3-yl](cyano)acetate | 10.82 g, 89% | ClC=1C=C2C(C(N(C2=CC1)CC(=O)OC)=O)(C#N)C(C(=O)OC)C#N | C16H12ClN3O5
